US05624950
To a suspension of 33.8 g of 2-methoxyphenylmagnesium bromide in 75 cm3 of tetrahydrofuran is added dropwise, at room temperature and with stirring, a solution of 6.6 g of (3aRS,5RS,7aRS)-5-acetoxy-2-benzyl-7,7-dimethyl-4-perhydroisoindolone in 75 cm3 of tetrahydrofuran. The reaction mixture is stirred at room temperature for 15 hours, treated with 200 cm3 of saturated aqueous ammonium chloride solution and taken up in 200 cm3 of ethyl ether and 100 g of ice. The organic phase is extracted with 3 times 100 cm3 of ethyl ether, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized in 500 cm3 of petroleum ether. 2.8 g of (3aRS,4RS,5RS,7aRS)-2-benzyl-7,7-dimethyl-4-(2-methoxyphenyl)-4,5-perhydroisoindolediol are obtained, melting at 190° C.

reactant | 2-methoxyphenylmagnesium bromide | 33.8 g | COC1=C(C=CC=C1)[Mg]Br
reactant | (3aRS,5RS,7aRS)-5-acetoxy-2-benzyl-7,7-dimethyl-4-perhydroisoindolone | 6.6 g | C(C)(=O)OC1C(C2CN(CC2C(C1)(C)C)CC1=CC=CC=C1)=O | C19H25NO3
reactant | ammonium chloride | 200 cm3 | [Cl-].[NH4+]
solvent | tetrahydrofuran | 75 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 cm3 | O1CCCC1 | C4H8O
solvent | ethyl ether | 200 cm3 | C(C)OCC | C4H10O
product | (3aRS,4RS,5RS,7aRS)-2-benzyl-7,7-dimethyl-4-(2-methoxyphenyl)-4,5-perhydroisoindolediol | 2.8 g | C(C1=CC=CC=C1)N1CC2C(CC(C(C2C1)(O)C1=C(C=CC=C1)OC)O)(C)C | C24H31NO3
